US05089633
Preparation of 7-dihydrocinnamoylamino-4-chloro-3-propyloxyisocoumarin
7-phenoxycarbonylamino-4-chloro-3-ethoxyisocoumarin and 7-phenoxycarbonylamino-4-chloro-3-(2-phenylethoxy)isocoumarin can be prepared by the same procedure.

reactant | 7-phenoxycarbonylamino-4-chloro-3-ethoxyisocoumarin | O(C1=CC=CC=C1)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCC)Cl | C18H14ClNO5
reactant | 7-phenoxycarbonylamino-4-chloro-3-(2-phenylethoxy)isocoumarin | O(C1=CC=CC=C1)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC1=CC=CC=C1)Cl | C24H18ClNO5
product | 7-dihydrocinnamoylamino-4-chloro-3-propyloxyisocoumarin | C(CCC1=CC=CC=C1)(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C21H20ClNO4
